US07718611B2
Methyl 3-(6-methylpyridin-2-yl)-L-alaninate
A mixture of methyl N-(benzyloxycarbonyl)-3-(6-methylpyridin-2-yl)-L-alaninate (7.25 g, 22.1 mmol) [S. W. Jones, C. F. Palmer, J. M. Paul, P. D. Tiffin, Tetrahedron Lett. 1999, 40, 1211-1214] and 10 percent palladium on carbon (0.690 g) in ethanol (80 ml) is hydrogenated at RT and under atmospheric pressure for 1 h. The reaction mixture is passed through a syringe filter (Millipore, 0.45 μg, hydrophobic PTFE) which is washed with ethanol (2×10 ml). The residue is concentrated on a rotary evaporator (removal of solvent residues by entrainment with toluene, twice) and dried under high vacuum. The product is obtained as an oil (3.89 g, yield 91% of theory).

reactant | methyl N-(benzyloxycarbonyl)-3-(6-methylpyridin-2-yl)-L-alaninate | 22.1 mmol, 7.25 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=NC(=CC=C1)C)C(=O)OC | C18H20N2O4
catalyst | palladium on carbon | 0.690 g | [Pd] | Pd
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Methyl 3-(6-methylpyridin-2-yl)-L-alaninate | yield 91% | CC1=CC=CC(=N1)C[C@H](N)C(=O)OC | C10H14N2O2
